US07341828B2
Synthesis of Ethylene Glycol bis(3-mercaptobutyrate) (EGMB)
In a 200-ml eggplant-shaped flask were charged 3.72 g (60 mmol) of ethylene glycol (manufactured by Wako Pure Chemical Industry Co., Ltd.), 15.86 g (132 mmol) of 3-mercaptobutanoic acid (manufactured by Yodo Chemical Co., Ltd.), 0.92 g (4.8 mmol) of p-toluenesulfonic acid monohydrate (manufactured by Junsei Chemicals Co., Ltd.), and 60 g of toluene (manufactured by Junsei Chemicals Co., Ltd.), and a Dean-Stark apparatus and a condenser tube were equipped thereto. While the contents being stirred, they were heated at an oil bath temperature of 140° C. After 2 hours from the start of the reaction, 0.92 g (4.8 mmol) of p-toluenesulfonic acid monohydrate was added and further after 4 hours from the start of the reaction, 0.46 g (2.4 mmol) of p-toluenesulfonic acid monohydrate was added. Further, after the reaction was performed for another 1 hour, the reaction mixture was left to cool and neutralized with 200 ml of an aqueous 10% sodium-hydrogen carbonate solution. Further, the reaction mixture was washed with deionized water three times, and then dehydrated and dried over anhydrous magnesium sulfate (manufactured by Junsei Chemicals Co., Ltd.). Then, the toluene was distilled off and the residue was subjected to column chromatography with silica gel to purify EGMB. The silica gel used was Wako Gel C-200 (manufactured by Wako Pure Chemical Industry Co., Ltd.), and n-hexane/ethyl acetate=6/1 (by volume ratio) was used as an elution solvent. The EGMB obtained by the purification was a colorless transparent liquid and the yield was 7.57 g (45%). The EGMB had a compositional formula of C10H18O4S2 and a molecular weight of 266.38.

reactant | ethylene glycol | 60 mmol, 3.72 g | C(CO)O | C2H6O2
reactant | 3-mercaptobutanoic acid | 132 mmol, 15.86 g | SC(CC(=O)O)C | C4H8O2S
reactant | p-toluenesulfonic acid monohydrate | 4.8 mmol, 0.92 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-toluenesulfonic acid monohydrate | 4.8 mmol, 0.92 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-toluenesulfonic acid monohydrate | 2.4 mmol, 0.46 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | [Na].C(O)([O-])=O
solvent | toluene | 60 g | C1(=CC=CC=C1)C | C7H8
product | Ethylene Glycol bis(3-mercaptobutyrate) | SC(CC(=O)OCCOC(CC(C)S)=O)C | C10H18O4S2
